US05302720
A mixture of 2-aminobiphenyl (6.3 g), methylisothiocyanate (3.8 g) and dichloromethane (45 ml) was stirred at ambient temperature for four days to give N-(2-biphenylyl)-N'-methylthiourea (m.p. 152°-153° C.).

reactant | 2-aminobiphenyl | 6.3 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | methylisothiocyanate | 3.8 g | CN=C=S | C2H3NS
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | N-(2-biphenylyl)-N'-methylthiourea | C1(=C(C=CC=C1)NC(=S)NC)C1=CC=CC=C1 | C14H14N2S
